US04794186
31.8 g of ethyl 2-hydroxyimino-3-oxo-n-butyrate are dissolved in 150 ml of acetone, and 83 g of anhydrous potassium carbonate are added thereto. 33 g of 3-bromo-2-pyrrolidone are added to the mixture at 20° to 25° C. with stirring, and the mixture is stirred at the same temperature for one hour. One liter of ice-water is added to said mixture, and the aqueous mixture is extracted with ethyl acetate. The extract is dried and concentrated under reduced pressure to remove solvent. The residue is crystallized with diisopropyl ether, and the crystals are collected by filtration. The crystals are recrystallized from ethyl acetate. 32 g of ethyl (Z)-2-[(2-pyrrolidon-3-yl)-oxyimino]-3-oxo-n-butyrate are obtained as colorless needles.

reactant | ethyl 2-hydroxyimino-3-oxo-n-butyrate | 31.8 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | potassium carbonate | 83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-2-pyrrolidone | 33 g | BrC1C(NCC1)=O | C4H6BrNO
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | ethyl (Z)-2-[(2-pyrrolidon-3-yl)-oxyimino]-3-oxo-n-butyrate | 32 g | N1C(C(CC1)O\N=C(/C(=O)OCC)\C(C)=O)=O | C10H14N2O5
